US07129242B2
4-{[4-(4-Chlorophenyl)pyrimidin-2-yl]amino}benzamide
To a solution of (2E)-3-(dimethylamino)-1-(4-chlorophenyl)prop-2-en-1-one (0.10 g, 0.48 mmol), 4-(amidinoamino)benzamide nitrate (0.116 g, 0.48 mmol), and potassium carbonate (0.132 g, 0.96 mmol) in ethanol (10 ml) with was heated to 120° C. overnight in a sealed vessel. The reaction mixture was cooled to room temperature and the resulting solid was collected then washed with ethanol, water, and diethyl ether to provide the title compound as a beige solid, identical in all respects with the compound prepared in Example 1.

reactant | (2E)-3-(dimethylamino)-1-(4-chlorophenyl)prop-2-en-1-one | 0.48 mmol, 0.10 g | CN(/C=C/C(=O)C1=CC=C(C=C1)Cl)C | C11H12ClNO
reactant | 4-(amidinoamino)benzamide nitrate | 0.48 mmol, 0.116 g | [N+](=O)(O)[O-].C(N)(=N)NC1=CC=C(C(=O)N)C=C1
reactant | potassium carbonate | 0.96 mmol, 0.132 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-{[4-(4-Chlorophenyl)pyrimidin-2-yl]amino}benzamide | ClC1=CC=C(C=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)N)C=C1 | C17H13ClN4O
